US05536830
7-AMINO-3-CHLORO-3-CEPHEM-4-CARBOXYLIC ACID
To a mixture of tetrahydrofuran (120 ml) and water (25 ml), p-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate (10 gm) was added. Iron powder (10 gm) was charged at 30° C., followed by the addition of concentrated HCl (12.5 ml) in a tetrahydrofuran (10 ml) and water (2.5 ml) mixture over a period of 15 minutes. The reaction mixture was stirred for 1 hour. After completion of the reaction, aq. KHCO3 was added to bring the pH to 8.0, followed by the addition of activated carbon. After stirring for 10 minutes, the mixture was filtered. To the filtrate was added aq. HCl to bring the pH to 4.0. The product thus separated was filtered and dried. Yield 4.17 gm (72.3%).

reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
reactant | p-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate | 10 gm | NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H12ClN3O5S
reactant | HCl | 12.5 ml | Cl | ClH
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | Iron | 10 gm | [Fe] | Fe
solvent | water | 2.5 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 7-AMINO-3-CHLORO-3-CEPHEM-4-CARBOXYLIC ACID | NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O | C7H7ClN2O3S
